US05523495
5.00 Grams of 2-iodoallylmethyl-α-naphthylcarbinol were dissolved in 50 g of dimethylformamide, and 1.18 g of sodium hydroxide in a flake form were added. The resultant mixture was stirred at room temperature for 8 hours. After the reaction was completed, the reaction mixture was neutralized with concentrated hydrochloric acid, insolubles were filtered off, and the remaining filtrate was concentrated under reduced pressure. The concentration residue was subjected to extraction with toluene, and washed with a 7% sodium carbonate aqueous solution. Then, the toluene was distilled off under reduced pressure to give 2.77 g of methyl-α-naphthylpropargylcarbinol; nD25 =1.5141, FI-MS m/e 210 (M) (Propargyl compound/allene compound 100.0/0.0).

reactant | 2-iodoallylmethyl-α-naphthylcarbinol | IC(CCC(O)C1=CC=CC2=CC=CC=C12)=C | C15H15IO
reactant | sodium hydroxide | 1.18 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | dimethylformamide | 50 g | CN(C=O)C | C3H7NO
product | methyl-α-naphthylpropargylcarbinol | 2.77 g | CC(O)(CC#C)C1=CC=CC2=CC=CC=C12 | C15H14O
